US07196108B2
To a solution of 1-(3,3-dimethyl-2,3-dihydro-benzofuran-5-yl)-propan-1-ol (2.6 g, 12.60 mmol) in dry dichloromethane (40 mL) was added at room temperature pyridinium chlorochromate (3 g, 13.86 mmol). The reaction mixture was stirred for 1 hour at room temperature then filtered over celite. Water was added and the layers separated. The aqueous layer was extracted twice with dichloromethane. The combined organic layers were washed successively with water and brine, dried over anhydrous magnesium sulfate, filtered and evaporated. The residue was chromatographed on silica gel (5% ethyl acetate in hexane) to give 530 mg of 1-(3,3-dimethyl-2,3-dihydro-benzofuran-5-yl)-propan-1-one (58%). 1H NMR (300 MHz; CDCl3): δ 1.21 (t, J=7.2 Hz, 3H), 1.37 (s, 6H), 2.94 (q, J=7.2 Hz, 2H), 4.32 (s, 2H), 6.80 (d, J=8.4 Hz, 1H), 7.79 (s, 1H), 7.81 (d, J=8.4 Hz, 1H).

reactant | 1-(3,3-dimethyl-2,3-dihydro-benzofuran-5-yl)-propan-1-ol | 12.60 mmol, 2.6 g | CC1(COC2=C1C=C(C=C2)C(CC)O)C | C13H18O2
reactant | pyridinium chlorochromate | 13.86 mmol, 3 g | [Cr](=O)(=O)([O-])Cl.[NH+]1=CC=CC=C1
solvent | dichloromethane | 40 mL | ClCCl | CH2Cl2
product | 1-(3,3-dimethyl-2,3-dihydro-benzofuran-5-yl)-propan-1-one | 530 mg, 58% | CC1(COC2=C1C=C(C=C2)C(CC)=O)C | C13H16O2
